* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE09\LTspice\AMP\Amp07op.asc
Vs1 Vpp 0 {Vs}
Vs2 0 Vnn {Vs}
Vi pos 0 {Vi}
XU1 0 neg Vpp Vnn o level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N001 neg {R1}
R2 neg o {R2}
R3 pos o {R3}
XU2 pos N001 Vpp Vnn N001 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.param Vs=15 Vi=1 R1=2.7k R2=3.3k R3=10k
.op
.meas Zi param V(pos)/I(R3)
.lib UniversalOpAmp2.lib
.backanno
.end
